US07595397B2
(3-Phenyl-pyrrolidin-1-yl)-(2′-trifluoromethyl-biphenyl-4-yl)-methanone
The above compound could be made in the following manner: 1 eq. of (4-Bromo-phenyl)-(3-phenyl-pyrrolidin-1-yl)-methanone would be combined with 1.5 eq. of 2-(Trifluoromethyl)phenyl boronic acid, 10 mol % of tetrakis(triphenylphosphine)palladium(0), 6.7 eq. of 2M sodium carbonate solution, toluene and ethanol. The reaction mixture would be heated in a sealed tube at 120° C. overnight in an oil bath. The reaction mixture would be filtered through Celite and concentrated in vacuo. The residue would be diluted with water and extracted with ethyl acetate. The combined organic phases would be washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The crude material would be purified by flash chromatography to afford product.

reactant | (4-Bromo-phenyl)-(3-phenyl-pyrrolidin-1-yl)-methanone | 1 eq. | BrC1=CC=C(C=C1)C(=O)N1CC(CC1)C1=CC=CC=C1 | C17H16BrNO
reactant | 2-(Trifluoromethyl)phenyl boronic acid | 1.5 eq. | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 2M, 6.7 eq. | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | C(C)O | C2H6O
product | (3-Phenyl-pyrrolidin-1-yl)-(2′-trifluoromethyl-biphenyl-4-yl)-methanone | C1(=CC=CC=C1)C1CN(CC1)C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C(F)(F)F | C24H20F3NO
